US04818277
A solution of 2-[(1-methylethyl)sulfonyl]benzenesulfonyl isocyanate (2.3 g, 0.008 mol) in dichloromethane (12 ml) was added to 2-amino-4,6-dimethylpyrimidine (0.74 g, 0.006 mol) and DABCO (catalytic amount) and the suspension was stirred overnight at room temperature. The solvent was removed in vacuo and acetonitrile was added to the residue. The precipitated solid was filtered and dried to give N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-2-[(1-methylethyl)sulfonyl]benzenesulfonamide as a white powder, m.p. 188°-193° (dec.).

reactant | 2-[(1-methylethyl)sulfonyl]benzenesulfonyl isocyanate | 0.008 mol, 2.3 g | CC(C)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C10H11NO5S2
reactant | 2-amino-4,6-dimethylpyrimidine | 0.006 mol, 0.74 g | NC1=NC(=CC(=N1)C)C | C6H9N3
reactant | DABCO | C1CN2CCN1CC2 | C6H12N2
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-2-[(1-methylethyl)sulfonyl]benzenesulfonamide | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C(C)C | C16H20N4O5S2
